US04349552
The reaction of 3-morpholinocarbonylpropionic acid and diphenylphosphoryl azide in a solution of triethyl amine and benzene provided a solution comprising 2-morpholinocarbonylethyl isocyanate, which was reacted with 5-fluorouracil to provide 1-[N-(2-morpholinocarbonylethyl)carbamoyl]-5-fluorouracil substantially in the similar method to that of Example 4.

reactant | 3-morpholinocarbonylpropionic acid | O1CCN(CC1)C(=O)CCC(=O)O | C8H13NO4
reactant | diphenylphosphoryl azide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-morpholinocarbonylethyl isocyanate | O1CCN(CC1)C(=O)CCN=C=O | C8H12N2O3
reactant | 5-fluorouracil | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | 1-[N-(2-morpholinocarbonylethyl)carbamoyl]-5-fluorouracil | O1CCN(CC1)C(=O)CCNC(=O)N1C(=O)NC(=O)C(=C1)F | C12H15FN4O5
